US06552049B2
[7-(Benzyloxy)-8-(3-hydroxypropyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate
To a solution of 4.46 g (9.6 mmole) of [(2R)-8-allyl-7-(benzyloxy)-2,3-dihydro-1,4-bezodioxin-2-yl]methyl 4-methylbenzenesulfonate in 30 mL of tetrahydrofuran at −10° C. was added 21 mL (21 mmole) of 1 M borane/tetra-hydrofuran. The solution was allowed to come to room temperature and stir under nitrogen for 3 days. Saturated aqueous sodium bicarbonate (50 mL) was cautiously added, followed by 2.5 mL of 30% hydrogen peroxide. The mixture was stirred at room temperature under nitrogen for 2 hours, then it was extracted with three 60 mL portions of ether. The combined extracts were dried over magnesium sulfate, filtered and concentrated in vacuum to give 4.87 g of the (R)-enantiomer of the title compound as a colorless oil. 1H-NMR (CDCl3): doublet 7.8 δ (2H); multiplet 7.4 δ (5H); doublet 7.35 δ (2H); doublet 6.65 δ (1H); doublet 6.45 δ (1H); singlet 5.0 δ (2H); multiplet 4.45 δ (1H); multiplet 4.2 δ (3H); doublet of doublets 4.0 δ (1H); triplet 3.5 δ (2H); doublet of triplets 2.73 δ (2H); singlet 2.45 δ (3H); multiplet 1.75 δ (2H).

reactant | [(2R)-8-allyl-7-(benzyloxy)-2,3-dihydro-1,4-bezodioxin-2-yl]methyl 4-methylbenzenesulfonate | 9.6 mmole, 4.46 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)OCC2=CC=CC=C2)CC=C | C26H26O6S
reactant | borane tetra-hydrofuran | 21 mmole, 1 M, 21 mL | B.O1CCCC1
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 2.5 mL | OO | H2O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | [7-(Benzyloxy)-8-(3-hydroxypropyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C(=C(C=C2)OCC2=CC=CC=C2)CCCO | C26H28O7S
